datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]N([C:20]([O-:10])(OCC)[O:21][H])[H]>>[H]N([C:20](=[O:10])OCC)[H].[O-:21][H] 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(CC)[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(CC)[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C)([NH]CC)[NH][H].[Cl-]>>[Cl-].C[NH:10][H].C[NH+:21]=[C:20]([NH]CC)[NH][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[NH:10]([H])C(C)/C([H])=C(C)\C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(C)=C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C1=CC=CC=C1)C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)O[H])C)[H]>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])O[H])C)[H] 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]C>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)CC 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)C)CCCCCC>>[H]N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)C)[O-:10])CCCCCC 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C(CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)C1=CC=CC=C1)[H]>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)C)[H]>>CN([C:20]1(OC(C(C([O:21]1)C)CC)C)[O-:10])[H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)CC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CC)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])O[H])[H].[O-:21]CC>>C1=CC=CC=C1N([C:20]([O-:10])(O[H])[O:21]CC)[H] 21=20;20,10=10"
"C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S]C([H])C([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C([H])C([H])[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OC1=CC=CC=C1)[H])CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1C)OC1=CC=CC=C1)[H])CCCCCC 21=20;20,10=10"
"[H][S+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(CC)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C([H])C(CC)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)[H])[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)[H])[O-:10])[H] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(C)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C([H])[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
